datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]=[C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:11])=[C:10]([H:12])[H:13],23.4304
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:21])[H:11],17.8657
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29],81.1696
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[O:7][H:8]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][O:7][H:8],4.184
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:15])([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2][H:16])=[O:3])([H:12])([H:13])[H:14].[C:4](=[C:5]([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:15],182.8408
[C:0](=[C:1]([C:2]1[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])[H:9])([H:7])[H:8]>>[C:0](=[C:1][C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8],262.37864
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:11]([H:12])([H:13])[H:14],48.5344
[O:3][H:4].[S:0]([H:1])[H:2]>>[H:1][O:3][H:4].[S:0][H:2],-2.80328
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],95.8554
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],-6.6944
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:20])[H:19])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[C:6]([H:19])=[C:7]([H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],131.796
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4][H:12])([H:10])[H:11])([H:5])[H:6].[C:13](=[O:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6].[H:12][C:13](=[O:14])[H:15],75.98144
[C:0]([N:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[H:9]>>[C:0]([N:1]([C:2]([H:6])([H:7])[H:8])[H:9])([H:3])([H:4])[H:5],0.0
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22])[H:8],44.6433
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])=[C:5]([C:6](=[C:7]([H:14])[H:15])[H:13])[H:12])[H:8].[H:16]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5]([C:6](=[C:7]([H:14])[H:15])[H:13])([H:12])[H:16])[H:8],0.4184
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13](=[S:14])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12]([C:13](=[S:14])[H:17])([H:15])[H:16],30.8361
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]2[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]([H:18])([H:19])[C:9]12[H:20]>>[H:20].[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]([H:13])[c:4]2[c:9]1[C:8]([H:18])([H:19])[C:7]([H:17])=[C:6]([H:16])[C:5]2([H:14])[H:15],92.6
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[O:13][H:14]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])[H:5].[H:6][O:13][H:14],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:20])[H:21],49.7896
